US09290517B2
Step D: 8-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-2-chloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-purine
To a stirring solution of 2-chloro-8-(methylsulfonyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-purine (182 mgs, 0.50 mmol) and (3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-ol (131.0 mg, 0.50 mmol) in anhydrous DMF (4.1 mL) was added diazabicyclo[5.4.0]undec-7-ene (DBU, 0.11 mL, 0.75 mmol). The reaction was stirred under N2 at RT for 16 h and then evaporated under reduced pressure. Flash chromatography of the resulting residue utilizing a 24 g silica RediSep Rf® Gold column and employing a 0-75% EtOAc/hexane gradient afforded the title compound. LC-MS: calculated for C23H39ClN4O5Si2 542.21 observed m/e: 543.53 (M+H)+ (Rt 1.54/2.0 min)

reactant | 2-chloro-8-(methylsulfonyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-purine | 0.50 mmol, 182 mgs | ClC1=NC=C2N(C(=NC2=N1)S(=O)(=O)C)COCC[Si](C)(C)C | C12H19ClN4O3SSi
reactant | (3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-ol | 0.50 mmol, 131.0 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2O | C12H24O4Si
reactant | diazabicyclo[5.4.0]undec-7-ene | 0.75 mmol, 0.11 mL | N12NCCCCC2=CCCC1 | C9H16N2
solvent | DMF | 4.1 mL | CN(C)C=O | C3H7NO
product | 8-(((3R,3aR,6R,6aS)-6-((tert-butyldimethylsilyl)oxy)hexahydrofuro[3,2-b]furan-3-yl)oxy)-2-chloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-purine | [Si](C)(C)(C(C)(C)C)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC2=NC1=NC(=NC=C1N2COCC[Si](C)(C)C)Cl | C23H39ClN4O5Si2
